US09062032B2
To a mixture of 6.2 mL of 2-(methylamino)ethanol, 6.48 g of sodium hydrogen carbonate, 60 mL of THF, and 30 mL of water was added dropwise 10 mL of ethyl succinyl chloride over 30 minutes under ice cooling, followed by stirring for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=11:4), thereby obtaining 12.0 g of ethyl 4-[(2-hydroxyethyl)(methyl)amino]-4-oxobutanoate.

reactant | 2-(methylamino)ethanol | 6.2 mL | CNCCO | C3H9NO
reactant | sodium hydrogen carbonate | 6.48 g | C(O)([O-])=O.[Na+]
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | ethyl succinyl chloride | 10 mL | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
solvent | water | 30 mL | O | H2O
product | ethyl 4-[(2-hydroxyethyl)(methyl)amino]-4-oxobutanoate | 12.0 g | OCCN(C(CCC(=O)OCC)=O)C | C9H17NO4
